US05260051
Preparation of Decyl 3-Hydroxybutyrate
A 100 ml one neck round bottom flask equipped with a Dean Stark trap, condenser and nitrogen inlet/outlet was charged with 20.8 g (0.20 moles) 3-hydroxybutyric acid, 63.3 g (0.40 moles) decyl alcohol, and 0.1 g sulfuric acid (based on 0.5 g/mole 3-hydroxybutyric acid). The mixture was heated to 140° C. for 8 hours and water was collected as the reaction proceeded. The acid was neutralized by washing three times with 50 ml saturated sodium bicarbonate solution. Approximately 50 ml ether was needed to break the emulsion. The organic layer was collected and dried over magnesium sulfate. Excess decyl alcohol was removed by high vacuum distillation to yield 28.3 g (58% yield) of clear viscous colorless oil. According to GC the product is 89.4% pure.

reactant | 3-hydroxybutyric acid | 0.20 moles, 20.8 g | OC(CC(=O)O)C | C4H8O3
reactant | decyl alcohol | 0.40 moles, 63.3 g | C(CCCCCCCCC)O | C10H22O
catalyst | sulfuric acid | 0.1 g | S(O)(O)(=O)=O | H2O4S
product | Decyl 3-Hydroxybutyrate | 28.3 g, 58% yield | OC(CC(=O)OCCCCCCCCCC)C | C14H28O3
